.SubCkt GGM31CR71H225KA55 _net1 _net2
.param K01=2.2277e-06
.param M01=2.2727e+08
.param L02=4.0872e-11
.param M03=4.2893e-03
.param K04=3.3133e-04
.param M04=1.1600e+01
.param K05=4.3658e-04
.param M05=1.4609e+00
.param K06=2.7638e-04
.param M06=3.4929e-01
.param K07=2.5405e-04
.param M07=5.0093e-02
.param K08=3.4808e-04
.param M08=6.2090e-03
.param K09=2.4322e-04
.param M09=2.1812e-03
.param L10=4.2781e-11
.param M10=6.7201e-02
.param L11=3.2136e-10
.param M11=3.8604e-02
.param K12=5.7193e-06
.param L12=1.0181e-10
.param M12=1.6369e-02
.param K13=2.4122e-06
.param L13=1.0689e-10
.param M13=1.6119e-02
.param K14=2.1368e-11
.param L14=5.7212e-11
.param M14=3.9202e+00
.param K15=1.5039e-12
.param L15=3.0457e-10
.param M15=1.1758e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31MR72A224KA37 _net1 _net2
.param K01=2.2104e-07
.param M01=2.2727e+09
.param L02=8.7017e-11
.param M03=1.3854e-02
.param K04=2.8127e-05
.param M04=1.4146e+02
.param K05=5.6053e-05
.param M05=1.2902e+01
.param K06=3.3811e-05
.param M06=3.6362e+00
.param K07=3.6087e-05
.param M07=3.6927e-01
.param K08=3.6803e-05
.param M08=6.5922e-02
.param K09=3.4662e-05
.param M09=1.5305e-02
.param K10=2.2882e-05
.param M10=4.6260e-03
.param L11=3.6218e-11
.param M11=9.7529e-02
.param L12=1.5078e-10
.param M12=9.0227e-02
.param K13=9.4625e-07
.param L13=4.2491e-11
.param M13=1.8688e-02
.param K14=1.7103e-07
.param L14=8.9758e-11
.param M14=3.7222e-02
.param K15=1.6011e-11
.param L15=8.7264e-11
.param M15=8.2838e+00
.param K16=1.4601e-12
.param L16=3.5434e-10
.param M16=8.0147e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 

.SubCkt GGM31CR71C106KA64 _net1 _net2
.param K01=7.1334e-06
.param M01=5.0000e+07
.param L02=4.1414e-12
.param M03=3.3707e-03
.param K04=2.4151e-04
.param M04=5.8281e+00
.param K05=2.3213e-04
.param M05=6.2933e-01
.param K06=1.8616e-04
.param M06=8.4449e-02
.param K07=1.3090e-04
.param M07=1.1452e-02
.param L08=4.5533e-11
.param M08=4.3515e-02
.param L09=4.1288e-10
.param M09=2.1976e-02
.param K10=2.0826e-05
.param L10=9.3738e-11
.param M10=7.6645e-03
.param K11=1.0555e-05
.param L11=8.4937e-11
.param M11=8.0582e-03
.param K12=2.2144e-11
.param L12=6.3382e-11
.param M12=1.1519e+01
.param K13=1.0269e-12
.param L13=4.0610e-10
.param M13=1.4742e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net2 'K13'
L13 _net1213 _net2 'L13'
R13 _net1213 _net2 'M13'
.ends 

.SubCkt GGM31CC71H475KA03 _net1 _net2
.param K01=4.5190e-06
.param M01=1.0638e+08
.param L02=7.4275e-11
.param M03=2.9103e-03
.param K04=4.1587e-04
.param M04=1.1893e+01
.param K05=7.5750e-04
.param M05=6.0359e-01
.param K06=7.4340e-04
.param M06=7.3782e-02
.param K07=7.1989e-04
.param M07=9.8435e-03
.param K08=9.0540e-04
.param M08=9.1525e-04
.param L09=1.3637e-11
.param M09=8.4935e-02
.param L10=4.6886e-11
.param M10=4.4073e-02
.param L11=3.8543e-10
.param M11=2.7005e-02
.param K12=1.2234e-05
.param L12=1.1766e-10
.param M12=1.1535e-02
.param K13=6.4933e-06
.param L13=1.0241e-10
.param M13=1.1359e-02
.param K14=1.6211e-11
.param L14=6.8742e-11
.param M14=5.2745e+00
.param K15=1.4552e-12
.param L15=2.4887e-10
.param M15=2.0532e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31CC71E106KA03 _net1 _net2
.param K01=9.6885e-06
.param M01=5.0000e+07
.param L02=8.2853e-11
.param M03=1.9891e-03
.param K04=8.3298e-04
.param M04=6.9834e+00
.param K05=1.8142e-03
.param M05=3.8902e-01
.param K06=3.5110e-03
.param M06=4.9884e-02
.param K07=1.4430e-03
.param M07=3.2609e-02
.param K08=1.2315e-03
.param M08=3.2647e-03
.param L09=1.5165e-11
.param M09=5.3046e-02
.param L10=4.7938e-11
.param M10=3.0358e-02
.param L11=4.5456e-10
.param M11=1.8201e-02
.param K12=2.7009e-05
.param L12=1.1862e-10
.param M12=8.7679e-03
.param K13=1.7697e-05
.param L13=8.5949e-11
.param M13=8.2282e-03
.param K14=1.3654e-11
.param L14=6.6303e-11
.param M14=1.1464e+01
.param K15=1.6950e-12
.param L15=2.6945e-10
.param M15=1.1538e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31CR71A226KE02 _net1 _net2
.param K01=1.5951e-05
.param M01=2.2727e+06
.param L02=7.0360e-11
.param M03=2.9055e-03
.param K04=4.1018e-04
.param M04=1.0749e+01
.param K05=5.4117e-04
.param M05=9.0625e-01
.param K06=5.2027e-04
.param M06=1.3120e-01
.param K07=5.0422e-04
.param M07=1.8859e-02
.param K08=3.6281e-04
.param M08=3.8876e-03
.param L09=2.6567e-11
.param M09=5.9757e-02
.param L10=7.1369e-11
.param M10=2.7640e-02
.param L11=4.0596e-10
.param M11=1.4212e-02
.param K12=4.6123e-05
.param L12=9.3715e-11
.param M12=5.5824e-03
.param K13=1.6601e-05
.param L13=1.1974e-10
.param M13=6.4512e-03
.param K14=2.5231e-11
.param L14=4.4042e-11
.param M14=1.0880e+01
.param K15=1.3091e-12
.param L15=3.2194e-10
.param M15=1.4001e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31CC72A225KE02 _net1 _net2
.param K01=2.1823e-06
.param M01=2.2727e+07
.param L02=1.0048e-10
.param M03=4.9813e-03
.param K04=2.8773e-04
.param M04=4.1287e+00
.param K05=2.2502e-04
.param M05=7.7629e-01
.param K06=2.1734e-04
.param M06=1.3996e-01
.param K07=2.1693e-04
.param M07=2.1251e-02
.param K08=1.7108e-04
.param M08=4.6471e-03
.param L09=1.9295e-11
.param M09=7.4450e-02
.param L10=2.9047e-10
.param M10=3.1139e-02
.param L11=3.6318e-11
.param M11=2.9006e-02
.param K12=6.0244e-06
.param L12=7.7127e-11
.param M12=1.1561e-02
.param K13=2.4540e-06
.param L13=9.1619e-11
.param M13=1.2355e-02
.param K14=1.6365e-11
.param L14=9.8448e-11
.param M14=9.9407e+00
.param K15=1.4606e-12
.param L15=2.8500e-10
.param M15=2.0643e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31CR70J226KE23 _net1 _net2
.param K01=1.4911e-05
.param M01=2.2727e+06
.param L02=2.6731e-10
.param M03=2.9247e-03
.param K04=4.1858e-04
.param M04=1.5576e+01
.param K05=6.3362e-04
.param M05=1.6029e+00
.param K06=5.0471e-04
.param M06=2.8992e-01
.param K07=4.9076e-04
.param M07=4.0868e-02
.param K08=3.4171e-04
.param M08=6.8918e-03
.param L09=1.1614e-11
.param M09=5.6268e-02
.param L10=5.8909e-11
.param M10=3.6750e-02
.param L11=4.0826e-10
.param M11=1.6176e-02
.param K12=4.1980e-05
.param L12=1.0465e-10
.param M12=4.9971e-03
.param K13=1.8625e-05
.param L13=1.1737e-10
.param M13=6.1007e-03
.param K14=1.3263e-11
.param L14=8.3095e-11
.param M14=1.3046e+01
.param K15=3.7144e-12
.param L15=1.0130e-10
.param M15=2.8342e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt GGM31CR71E475KA55 _net1 _net2
.param K01=4.5521e-06
.param M01=1.0638e+08
.param L02=3.0764e-11
.param M03=3.0686e-03
.param K04=1.0747e-03
.param M04=2.8262e+00
.param K05=7.1087e-04
.param M05=4.1396e-01
.param K06=5.7598e-04
.param M06=6.6056e-02
.param K07=5.5128e-04
.param M07=7.9965e-03
.param K08=7.4397e-04
.param M08=8.9103e-04
.param L09=3.7510e-11
.param M09=3.8794e-02
.param L10=3.2561e-10
.param M10=2.6398e-02
.param K11=1.0213e-05
.param L11=1.2147e-10
.param M11=9.9818e-03
.param K12=5.6319e-06
.param L12=9.8070e-11
.param M12=1.0439e-02
.param K13=2.7219e-11
.param L13=6.1615e-11
.param M13=5.6110e+00
.param K14=1.1825e-12
.param L14=3.5716e-10
.param M14=1.3552e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM31CR71C475KA37 _net1 _net2
.param K01=4.5521e-06
.param M01=1.0638e+08
.param L02=3.0764e-11
.param M03=3.0686e-03
.param K04=1.0747e-03
.param M04=2.8262e+00
.param K05=7.1087e-04
.param M05=4.1396e-01
.param K06=5.7598e-04
.param M06=6.6056e-02
.param K07=5.5128e-04
.param M07=7.9965e-03
.param K08=7.4397e-04
.param M08=8.9103e-04
.param L09=3.7510e-11
.param M09=3.8794e-02
.param L10=3.2561e-10
.param M10=2.6398e-02
.param K11=1.0213e-05
.param L11=1.2147e-10
.param M11=9.9818e-03
.param K12=5.6319e-06
.param L12=9.8070e-11
.param M12=1.0439e-02
.param K13=2.7219e-11
.param L13=6.1615e-11
.param M13=5.6110e+00
.param K14=1.1825e-12
.param L14=3.5716e-10
.param M14=1.3552e+02
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net1112 'K11'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
C12 _net1112 _net1213 'K12'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt GGM31CD70J226KE02 _net1 _net2
.param K01=1.7276e-05
.param M01=2.2727e+06
.param L02=1.8044e-10
.param M03=2.4163e-03
.param K04=9.7847e-04
.param M04=2.1277e+00
.param K05=1.4899e-03
.param M05=2.6557e-01
.param K06=1.4079e-03
.param M06=6.8676e-02
.param K07=1.3394e-03
.param M07=1.8714e-02
.param K08=7.1444e-04
.param M08=4.3708e-03
.param L09=1.8963e-11
.param M09=3.8631e-02
.param L10=6.5427e-11
.param M10=2.2335e-02
.param L11=3.5916e-10
.param M11=8.7727e-03
.param L12=1.3250e-10
.param M12=4.6155e-03
.param K13=1.4581e-04
.param L13=4.0030e-11
.param M13=2.5286e-03
.param K14=2.0640e-05
.param L14=1.3640e-10
.param M14=4.1973e-03
.param K15=2.9740e-11
.param L15=5.4184e-11
.param M15=4.1197e+00
.param K16=1.5799e-12
.param L16=2.2907e-10
.param M16=4.7919e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net1516 'K15'
L15 _net1415 _net1516 'L15'
R15 _net1415 _net1516 'M15'
C16 _net1516 _net2 'K16'
L16 _net1516 _net2 'L16'
R16 _net1516 _net2 'M16'
.ends 
